### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Sphere/SecondInter): add secondInter difference lemmas

### PR DESCRIPTION
**Pull request by Scarlett-le**
This PR adds formulas for the difference and distance between the values of
  `Sphere.secondInter` associated with two sphere centers and a common base point
  and direction.

  The general statements do not require the direction to have norm one. Convenient
  unit-direction corollaries are provided as well:

  - `Sphere.secondInter_vsub_secondInter`
  - `Sphere.secondInter_vsub_secondInter_of_norm_eq_one`
  - `Sphere.dist_secondInter_secondInter`
  - `Sphere.dist_secondInter_secondInter_of_norm_eq_one`

  The results describe how the second intersection changes when the sphere center
  is changed, and provide both vector-valued and distance formulations.

### CODE REVIEW

**Review by wwylele — APPROVED** [review]

**Comment by jsm28** [comment]
maintainer merge

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 1]
```diff
@@ -145,6 +145,37 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
   convert! zero_div (G₀ := ℝ) _
   ring
 
+/-- The difference between the second intersections of two spheres along a common direction. -/
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]: For this and the next lemmas, can you provide in the doccstring the *result* (so, "the difference... is...")?

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 2]
```diff
@@ -145,6 +145,37 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
...
+theorem Sphere.secondInter_vsub_secondInter (s₁ s₂ : Sphere P) (p : P) (v : V) :
+    s₁.secondInter p v -ᵥ s₂.secondInter p v = (2 * ⟪v, s₁.center -ᵥ s₂.center⟫ / ⟪v, v⟫) • v := by
+  rw [Sphere.secondInter, Sphere.secondInter, vadd_vsub_vadd_cancel_right, ← sub_smul,
+    ← vsub_sub_vsub_cancel_left s₁.center s₂.center p, inner_sub_right]
+  congr 1
+  ring
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]:
```suggestion
  grind
```

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 3]
```diff
@@ -145,6 +145,37 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
...
+
+/-- The difference between the second intersections of two spheres along a common unit direction. -/
+theorem Sphere.secondInter_vsub_secondInter_of_norm_eq_one (s₁ s₂ : Sphere P) (p : P) {v : V}
+    (hv : ‖v‖ = 1) :
+    s₁.secondInter p v -ᵥ s₂.secondInter p v = (2 * ⟪v, s₁.center -ᵥ s₂.center⟫) • v := by
+  have hvv : ⟪v, v⟫ = (1 : ℝ) := by simp [hv]
+  rw [secondInter_vsub_secondInter, hvv, div_one]
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]:
```suggestion
  simp [hv, secondInter_vsub_secondInter, div_one]
```

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 4]
```diff
@@ -145,6 +145,37 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
...
+
+/-- The distance between the second intersections of two spheres along a common direction. -/
+theorem Sphere.dist_secondInter_secondInter (s₁ s₂ : Sphere P) (p : P) (v : V) :
+    dist (s₁.secondInter p v) (s₂.secondInter p v) = 2 * |⟪v, s₁.center -ᵥ s₂.center⟫| / ‖v‖ := by
+  rcases eq_or_ne v 0 with rfl | hv
+  · simp
+  rw [dist_eq_norm_vsub V, secondInter_vsub_secondInter, norm_smul, Real.norm_eq_abs,
+    abs_div, abs_mul, abs_two, real_inner_self_eq_norm_sq,
+    abs_of_nonneg (by positivity : (0 : ℝ) ≤ ‖v‖ ^ 2)]
+  field_simp
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]:
```suggestion
  simp [dist_eq_norm_vsub, secondInter_vsub_secondInter, norm_smul]
  grind
```

**Review by faenuccio — COMMENTED** [review]
Thanks, I've suggested a bit of golfind

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean (hunk 1 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]: Done, thanks for the suggestion!

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 5]
```diff
@@ -144,6 +144,38 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
...
+  rw [Sphere.secondInter, Sphere.secondInter, vadd_vsub_vadd_cancel_right, ← sub_smul,
+    ← vsub_sub_vsub_cancel_left s₁.center s₂.center p, inner_sub_right]
+  grind
+
+/-- The difference between the second intersections of two spheres along a common
+unit direction `v` is `(2 * ⟪v, s₁.center -ᵥ s₂.center⟫) • v`. -/
+theorem Sphere.secondInter_vsub_secondInter_of_norm_eq_one (s₁ s₂ : Sphere P) (p : P) {v : V}
+    (hv : ‖v‖ = 1) :
+    s₁.secondInter p v -ᵥ s₂.secondInter p v = (2 * ⟪v, s₁.center -ᵥ s₂.center⟫) • v := by
+  simp [hv, secondInter_vsub_secondInter, div_one]
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]:
```suggestion
  simp [hv, secondInter_vsub_secondInter]
```

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 6]
```diff
@@ -144,6 +144,38 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
...
+  · simp
+  simp [dist_eq_norm_vsub, secondInter_vsub_secondInter, norm_smul]
+  grind
+
+/-- The distance between the second intersections of two spheres along a common
+unit direction `v` is `2 * |⟪v, s₁.center -ᵥ s₂.center⟫|`. -/
+theorem Sphere.dist_secondInter_secondInter_of_norm_eq_one (s₁ s₂ : Sphere P) (p : P) {v : V}
+    (hv : ‖v‖ = 1) :
+    dist (s₁.secondInter p v) (s₂.secondInter p v) = 2 * |⟪v, s₁.center -ᵥ s₂.center⟫| := by
+  rw [dist_secondInter_secondInter, hv, div_one]
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean:176]:
```suggestion
  rw [dist_secondInter_secondInter, hv]
```

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean [hunk 7]
```diff
@@ -144,6 +144,38 @@ theorem Sphere.secondInter_secondInter (s : Sphere P) (p : P) (v : V) :
...
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (faenuccio) [inline Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean]:
```suggestion
```

**Review by faenuccio — COMMENTED** [review]
thanks, I've added three other minor suggestions (the last one is perhaps the most important). Please accept them and then you can merge.

**Review by faenuccio — COMMENTED** [review]
bors d+

File: Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean (hunk 6 above)
Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean:176]: As this is a `rw`, `div_one` is still needed. Maybe `simp [dist_secondInter_secondInter, hv]` works?

Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Sphere/SecondInter.lean:176]: Thanks both! Applied the rest; keeping `div_one` as suggested. Merging once CI's green.
